US05962458
A solution of 6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (365 mg, 0.8 mmol) in methanolic ammonia (30 ml of a 3M solution) was stirred at ambient temperature for 16 hours. The volatiles were removed by evaporation, the residue was triturated with ether, the solid was collected by filtration, washed with ether and dried under vacuum to give 6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)-3,4-dihydroquinazolin-4-one (250 mg, 92%).

reactant | 6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 0.8 mmol, 365 mg | COC=1C=C2C(N(C=NC2=CC1OCCN(C1=NC=NC(=C1)C)C)COC(C(C)(C)C)=O)=O | C23H29N5O5
solvent | ammonia | N | H3N
product | 6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)-3,4-dihydroquinazolin-4-one | 250 mg, 92% | COC=1C=C2C(NC=NC2=CC1OCCN(C1=NC=NC(=C1)C)C)=O | C17H19N5O3
